US05763635
4-[[(5,5-Dimethyl-5,6-dihydro-8-(2-thienyl)-naphthalen-2-yl)carbonyl]oxy]-benzoic acid (Compound E11)
To a solution of 2-trimethylsilylethyl 4-[[(5,5-dimethyl-5,6-dihydro-8-(2-thienyl)-naphthalen-2-yl)carbonyl]oxy]-benzoate (Compound E10, 100.0 mg, 0.198 mmol) in 2.0 mL THF at room temperature was added 155.3 mg of tetrabutylammonium fluoride (0.594 mmol 0.6 mL of a 1M solution in THF). After stirring overnight the reaction was diluted with EtOAc and washed with H2O and saturated aqueous NaCl before being dried over MgSO4. The solvents were removed under reduced pressure and the residue washed with hot acetonitrile leaving the product as a colorless solid.

reactant | 2-trimethylsilylethyl 4-[[(5,5-dimethyl-5,6-dihydro-8-(2-thienyl)-naphthalen-2-yl)carbonyl]oxy]-benzoate | 0.198 mmol, 100.0 mg | CC1(C=2C=CC(=CC2C(=CC1)C=1SC=CC1)C(=O)OC1=CC=C(C(=O)OCC[Si](C)(C)C)C=C1)C | C29H32O4SSi
reactant | tetrabutylammonium fluoride | 155.3 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[[(5,5-Dimethyl-5,6-dihydro-8-(2-thienyl)-naphthalen-2-yl)carbonyl]oxy]-benzoic acid | CC1(C=2C=CC(=CC2C(=CC1)C=1SC=CC1)C(=O)OC1=CC=C(C(=O)O)C=C1)C | C24H20O4S
